US04788185
(43-7) 8-Fluoroimidazo[1,2-a]pyridine
2-Amino-3-fluoropyridine (21.1 g) is added to a solution of bromoacetaldehyde prepared from 74 g of bromoacetaldehyde diethylacetal, 18.5 ml of aqueous hydrogen bromide solution and 18.5 ml of water and made to react in the presence of sodium bicarbonate in aqueous ethanolic solution giving 12 g of the above-identified compound, bp. 91°-100° C./1-1.5 mmHg, which solidifies at room temperature.

reactant | 2-Amino-3-fluoropyridine | 21.1 g | NC1=NC=CC=C1F | C5H5FN2
reactant | bromoacetaldehyde | BrCC=O | C2H3BrO
reactant | bromoacetaldehyde diethylacetal | 74 g | C(C)OC(CBr)OCC | C6H13BrO2
reactant | hydrogen bromide | 18.5 ml | Br | BrH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | water | 18.5 ml | O | H2O
product | 8-Fluoroimidazo[1,2-a]pyridine | 12 g | FC=1C=2N(C=CC1)C=CN2 | C7H5FN2
